US04282365
Step A: Methyl 6,11-Dihydro-11-methoxydibenz[b,e]oxepin-2-carboxylate
Mix 0.415 gm of potassium tert-butoxide, 5 ml of methanol and 5 ml of dimethylformamide and add the mixture to a solution of 1.07 gm of methyl 6,11-dihydro-11-chlorodibenz[b,e]oxepin-2-carboxylate in 40 ml of dimethylformamide. Stir at room temperature for 3 days. Dilute with water and extract with ether. Evaporate to dryness and chromatograph over silica gel with benzene as the eluting solvent to obtain the title product.

reactant | potassium tert-butoxide | 0.415 gm | CC(C)([O-])C.[K+]
reactant | methanol | 5 ml | CO | CH4O
reactant | methyl 6,11-dihydro-11-chlorodibenz[b,e]oxepin-2-carboxylate | 1.07 gm | ClC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C16H13ClO3
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Methyl 6,11-Dihydro-11-methoxydibenz[b,e]oxepin-2-carboxylate | COC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C17H16O4
